US07381719B2
Using a method similar to Example 710, Part 2, using 2,3,5-trifluoro-4-hydroxy-benzaldehyde (1.00 g, 5.64 mmol), 6-chloronicotinonitrile (782 mg, 5.64 mmol) and K2CO3 (1.17 g, 8.47 mmol) gives 6-(2,3,6-trifluoro-4-formyl-phenoxy)-nicotinonitrile (907 mg) contaminated with 6-chloronicotinonitrile starting material. Dissolve this mixture in MeOH (15 ml) and treat with isoamylamine (194 mg, 2.23 mmol). After stirring for two hours, add NaBH4 (105 mg, 2.79 mmol) and stir for an additional hour. Purification as described in Example 710, Step 4, gives 6-{2,3,6-trifluoro-4-[(3-methyl-butylamino)-methyl]-phenoxy}-nicotinonitrile (383 mg) as a colorless oil.

reactant | 2,3,5-trifluoro-4-hydroxy-benzaldehyde | 5.64 mmol, 1.00 g | FC1=C(C=O)C=C(C(=C1F)O)F | C7H3F3O2
reactant | 6-chloronicotinonitrile | 5.64 mmol, 782 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | K2CO3 | 8.47 mmol, 1.17 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(2,3,6-trifluoro-4-formyl-phenoxy)-nicotinonitrile | 907 mg | FC1=C(OC2=NC=C(C#N)C=C2)C(=CC(=C1F)C=O)F | C13H5F3N2O2
